US07655679B2
600 mg 4-{2-[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-ethyl}-benzonitrile were dissolved in 30 ml dimethylformamide. 85.9 mg sodium hydride (24% in mineral oil) were added and the reaction mixture stirred at room temperature for thirty minutes. Then 245 μl 1-Iodobutane were added and the reaction mixture stirred at room temperature for two hours. Then 100 ml ethyl acetate were added and the mixture was washed three times with portions of 50 ml water and then dried over MgSO4. The solvents were removed in vacuo and the residue purified by RP-HPLC to obtain 279 mg 4-(2-{Butyl-[4-(4-methoxy-phenyl)-thiazol-2-yl]-amino}-ethyl)-benzonitrile.

reactant | 4-{2-[4-(4-Methoxy-phenyl)-thiazol-2-ylamino]-ethyl}-benzonitrile | 600 mg | COC1=CC=C(C=C1)C=1N=C(SC1)NCCC1=CC=C(C#N)C=C1 | C19H17N3OS
reactant | sodium hydride | 85.9 mg | [H-].[Na+]
reactant | 1-Iodobutane | 245 μl | ICCCC | C4H9I
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(2-{Butyl-[4-(4-methoxy-phenyl)-thiazol-2-yl]-amino}-ethyl)-benzonitrile | 279 mg | C(CCC)N(CCC1=CC=C(C#N)C=C1)C=1SC=C(N1)C1=CC=C(C=C1)OC | C23H25N3OS
